US04898874
6-(1-Bromoethyl)-3-phenyl-2,1-benzisoxazole
A mixture of 1.9 g (0.0085 mole) of 6-ethyl-3-phenyl-2,1-benzisoxazole, 1.5 g (0.0087 mole) of N-bromosuccinimide and a few crystals of dibenzoyl peroxide in 100 ml of carbon tetrachloride was heated at reflux for 2 hr under floodlight illumination and under an argon atmosphere. The cooled reaction mixture was filtered, and the filtrate was washed twice with 100 ml portions of 10% sodium bicarbonate solution, once with water (100 ml) and dried over sodium sulfate. The sodium sulfate was removed by filtration and the filtrate was concentrated to a dark brown oil which solidified upon standing. The solid was purified by chromatography (3.5×60 cm glass column; 180 g of silica gel; benzene). Fractions containing the title compound were combined and the solvent was evaporated under reduced pressure to give a viscous oil which solidified upon standing. The solid was recrystallized from diethyl ether-petroleum ether (30°-60° C.) to give 1.7 g (65%) of mustard yellow crystals, m.p. 99°-102° C.

reactant | 6-ethyl-3-phenyl-2,1-benzisoxazole | 0.0085 mole, 1.9 g | C(C)C1=CC=2C(=C(ON2)C2=CC=CC=C2)C=C1 | C15H13NO
reactant | N-bromosuccinimide | 0.0087 mole, 1.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(1-Bromoethyl)-3-phenyl-2,1-benzisoxazole | BrC(C)C1=CC=2C(=C(ON2)C2=CC=CC=C2)C=C1 | C15H12BrNO
